US09359338B2
Step 1: Synthesis of 1-[6-chloro-4-(trifluoromethyl)-2-pyridyl]-4-methyl-piperazine
Dissolve 2,6-dichloro-4-(trifluoromethyl)pyridine (215 mg, 1 mmol) and DIEA (129 mg, 1 mmol) in DMF (2 mL), add 1-methyl piperazine (100 mg, 1 mmol). Stir the reaction at 120° C. overnight. Cool to room temperature; concentrate under reduced pressure to give the crude product. Purification by chromatography (silica gel, MeOH:DCM=1:10) affords the product (253 mg, 91%). MS: (M+1): 280.

reactant | 2,6-dichloro-4-(trifluoromethyl)pyridine | 1 mmol, 215 mg | ClC1=NC(=CC(=C1)C(F)(F)F)Cl | C6H2Cl2F3N
reactant | DIEA | 1 mmol, 129 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-methyl piperazine | 1 mmol, 100 mg | CN1CCNCC1 | C5H12N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-[6-chloro-4-(trifluoromethyl)-2-pyridyl]-4-methyl-piperazine | 253 mg, 91% | ClC1=CC(=CC(=N1)N1CCN(CC1)C)C(F)(F)F | C11H13ClF3N3
